US06313116B1
2-Cyclopropyl-4-methoxybenzothiazole-7-carboxylic acid (4-cyano-2-methyl-2H-pyrazol-3-yl)amide
Starting from 5-amino-1-methyl-1H-pyrazole-4-carbonitrile (90 mg) in dimethyl formamide (30 ml), sodium hexamethyldisilazide in tetrahydrofbran (1.08 ml, 1.0 M), and 2-cyclopropyl-4-methoxybenzothiazole-7-carboxylic acid 4-nitrophenyl ester (200 mg). Purification by flash chromatography (eluent 10% methanol in dichloromethane) to yield the title compound as an off-white solid (95 mg). TLC Rf 0.30 (10% methanol in dichloromethane); Mpt 259-260° C.

reactant | 5-amino-1-methyl-1H-pyrazole-4-carbonitrile | 90 mg | NC1=C(C=NN1C)C#N | C5H6N4
reactant | 2-cyclopropyl-4-methoxybenzothiazole-7-carboxylic acid 4-nitrophenyl ester | 200 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C1=CC=C(C=2N=C(SC21)C2CC2)OC | C18H14N2O5S
solvent | dimethyl formamide | 30 ml | CN(C=O)C | C3H7NO
solvent | sodium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
product | 2-Cyclopropyl-4-methoxybenzothiazole-7-carboxylic acid (4-cyano-2-methyl-2H-pyrazol-3-yl)amide | 95 mg | C(#N)C1=C(N(N=C1)C)NC(=O)C1=CC=C(C=2N=C(SC21)C2CC2)OC | C17H15N5O2S
